US05114960
0.024 g (0.068 mmol) of methyl cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methylthio-4H-cyclohept[d]isoxazole-7-carboxylate was stirred in 5 ml of dioxane and 2 ml of 1N aqueous sodium hydroxide solution were added. The mixture was stirred at room temperature for 1 hour. Water was then added and the solution was partially evaporated. The aqueous solution was acidified with 1N hydrochloric acid and the precipitate was collected, washed with water and dried to give 0.0146 g of cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methylthio-4H-cyclohept[d]isoxazole7-carboxylic acid of melting point 241°-242° C.

reactant | methyl cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methylthio-4H-cyclohept[d]isoxazole-7-carboxylate | 0.068 mmol, 0.024 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@@H](C2)C(=O)OC)SC | C17H18ClNO3S
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methylthio-4H-cyclohept[d]isoxazole7-carboxylic acid | 0.0146 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@@H](C2)C(=O)O)SC | C16H16ClNO3S
